US07935674B2
4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole obtained in Example 2-(3) and benzo[b]furan-5-carbonyl chloride were treated in a manner similar to Example 2-(4) to give benzo[b]furan-5-yl 4-fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indol-3-yl ketone as a colorless powder. APCI-Mass m/Z 627 (M+NH4), 610 (M+H). 1H-NMR (DMSO-d6) δ 1.73 (s, 3H), 1.96 (s, 3H), 1.98 (s, 3H), 2.03 (s, 3H), 4.10 (d, J=4.0 Hz, 2H), 4.28-4.31 (m, 1H), 5.28 (t, J=9.8 Hz, 1H), 5.54 (t, J=9.6 Hz, 1H), 5.77 (t, J=9.3 Hz, 1H), 6.35 (d, J=9.2 Hz, 1H), 7.04 (dd, J=10.8, 8.0 Hz, 1H), 7.09 (d, J=1.4 Hz, 1H), 7.39 (td, J=8.1, 4.7 Hz, 1H), 7.64 (d, J=8.3 Hz, 1H), 7.75-7.77 (m, 1H), 7.82-7.84 (m, 1H), 8.14-8.15 (m, 2H), 8.17 (s, 1H).

reactant | 4-Fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-indole | FC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24FNO9
reactant | benzo[b]furan-5-carbonyl chloride | O1C2=C(C=C1)C=C(C=C2)C(=O)Cl | C9H5ClO2
product | benzo[b]furan-5-yl 4-fluoro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indol-3-yl ketone | FC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)C(=O)C1=CC2=C(OC=C2)C=C1 | C31H28FNO11
